US09388142B2
A solution of 2-amino-5-fluoro-3-methyl-benzamide (84.1 mg, 0.50 mmol), 4-(4-methyl-piperazin-1-yl)-benzaldehyde (123 mg, 0.60 mmol) and sodium disulfite (97 mg, 0.51 mmol) in N-methyl-pyrrolidone (1 ml) is heated to 150° C. and stirred at this temperature for 16 hours. The reaction mixture is allowed to reach room temperature and poured into ice water. The resulting precipitate is collected by filtration, washed with water and dried. The residue is chromatographed on a silica gel column with methanol/dichloromethane as eluent to afford 6-fluoro-8-methyl-2-[4-(4-methyl-piperazin-1-yl)-phenyl]-3H-quinazolin-4-one as brown powder; HPLC/MS 1.47 min (A), [M+H] 353; 1H NMR (400 MHz, DMSO-d6) δ [ppm] 12.34 (s, 1H), 8.69-7.90 (m, 2H), 7.86-7.26 (m, 2H), 7.28-6.73 (m, 2H), 3.33-3.27 (m, 4H), 2.61 (s, 3H), 2.45 (t, J=5.1 Hz, 4H), 2.23 (s, 3H).

reactant | 2-amino-5-fluoro-3-methyl-benzamide | 0.50 mmol, 84.1 mg | NC1=C(C(=O)N)C=C(C=C1C)F | C8H9FN2O
reactant | 4-(4-methyl-piperazin-1-yl)-benzaldehyde | 0.60 mmol, 123 mg | CN1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H16N2O
reactant | sodium disulfite | 0.51 mmol, 97 mg | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | N-methyl-pyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 6-fluoro-8-methyl-2-[4-(4-methyl-piperazin-1-yl)-phenyl]-3H-quinazolin-4-one | FC=1C=C2C(NC(=NC2=C(C1)C)C1=CC=C(C=C1)N1CCN(CC1)C)=O | C20H21FN4O
